Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain, fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ yo G6P1 who presents at 37w5d for fever to
102.9 at home. Was diagnosed with E coli UTI 2 days prior.
Started taking Keflex yesterday. Denies vaginal bleeding,
contractions and leaking of fluid vaginally.  +FM.

ROS: denies CP and SOB

PNC:      1)Dating: EDC ___ by LMP
          2)Routine testing: B+, antibody neg, RPR NR, rubella
immune, HbsAg NR
          3)Issues with this pregnancy: hx prior c/s

 
Past Medical History:
OB Hx:
___ 39w4d primary c/s; ___ stage arrest DOP, 3h push
___ sab D&E
___ sab D&E
___ sab D&E
TAB (confidential)

Gyn Hx: denies STI, fibroids, other surgery. +hx infertility 
with
translocation
PMH: D&E's; LTCS; breast reduction

 
Social History:
Denies ETOH, drugs, smoking.

 
Physical Exam:
On presentation:
VS: T  99.3  BP 123/72   HR 113    RR 12
CV: rrr w/o m/g/r
Chest: CTA B
Abd: gravid, soft, nontender
Back: mild right sided CVAT
Ext: -edema B
SVE: deferred

On discharge:
Vital signs stable
No acute distress
Abdomen soft, nontender
 
Pertinent Results:
___ 07:47PM URINE  WBCCLUMP-MANY MUCOUS-MANY
___ 07:47PM URINE  RBC-94* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-15
___ 07:47PM URINE  BLOOD-MOD NITRITE-POS PROTEIN-100 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-LG
___ 07:47PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 07:12PM URINE  WBCCLUMP-RARE MUCOUS-FEW
___ 07:12PM URINE  RBC-12* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-43 TRANS EPI-3
___ 07:12PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-LG
___ 07:12PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 07:16PM   PLT COUNT-124*
___ 07:16PM   NEUTS-83.6* LYMPHS-9.3* MONOS-6.8 EOS-0.1 
BASOS-0.1
___ 07:16PM   WBC-11.3*# RBC-3.73* HGB-11.0* HCT-30.3* 
MCV-81*# MCH-29.5 MCHC-36.3*# RDW-14.5
___ 07:16PM   CREAT-0.6
 
Brief Hospital Course:
The patient was admitted on ___ to the antepartum service for 
IV ceftriaxone treatment of pyelonephritis.  She spontaneously 
went into labor and underwent an uncomplicated vaginal delivery 
after cesarean on ___.  IV antibiotics were discontinued on 
___.  Her postpartum course was otherwise routine.  Cultures 
demonstrated resistence to keflex, so the patient was discharged 
home on a course of bactrim.    
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hrs Disp #*40 
Tablet Refills:*0
2. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 4hrs Disp #*30 Tablet Refills:*0
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis
vaginal birth after cesarean

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see instruction sheet
 
Followup Instructions:
___